US07855297B2
By the reaction and treatment in the same manner as in Example 83 using 5-benzyloxy-N-(4-methoxyphenyl)-N-[(pyrazol-4-yl)methyl]-1,2,3,4-tetrahydronaphthalene-1-carboxamide (0.56 g) and (bromomethyl)cyclohexane (0.20 mL) as starting materials, 5-benzyloxy-N-{[1-(cyclohexylmethyl)pyrazol-4-yl]methyl}-N-(4-methoxyphenyl)-1,2,3,4-tetrahydronaphthalene-1-carboxamide (0.55 g) was obtained. By the reaction and treatment in the same manner as in Example 133 using this compound (0.45 g), N-{[1-(cyclohexylmethyl)pyrazol-4-yl]methyl}-5-hydroxy-N-(4-methoxyphenyl)-1,2,3,4-tetrahydronaphthalene-1-carboxamide (0.36 g) was obtained.

reactant | 5-benzyloxy-N-(4-methoxyphenyl)-N-[(pyrazol-4-yl)methyl]-1,2,3,4-tetrahydronaphthalene-1-carboxamide | 0.56 g | C(C1=CC=CC=C1)OC1=C2CCCC(C2=CC=C1)C(=O)N(CC=1C=NNC1)C1=CC=C(C=C1)OC | C29H29N3O3
reactant | (bromomethyl)cyclohexane | 0.20 mL | BrCC1CCCCC1 | C7H13Br
product | 5-benzyloxy-N-{[1-(cyclohexylmethyl)pyrazol-4-yl]methyl}-N-(4-methoxyphenyl)-1,2,3,4-tetrahydronaphthalene-1-carboxamide | 0.55 g | C(C1=CC=CC=C1)OC1=C2CCCC(C2=CC=C1)C(=O)N(C1=CC=C(C=C1)OC)CC=1C=NN(C1)CC1CCCCC1 | C36H41N3O3
